US07244766B2
Preparation 73: (4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)acetonitrile
A solution of (4-hydroxyphenyl)acetonitrile (6.01 g, 45.1 mmol) in N,N-dimethylformamide (60 ml) was treated with imidazole (3.81 g, 58.6 mmol), tert-butyldimethylsilyl chloride (7.49 g, 49.6 mmol) and N,N-dimethylaminopyridine (20 mg) and the resulting solution left to stir at room temperature under a nitrogen atmosphere for 16 hours. The reaction mixture was diluted with water (200 ml) and extracted with ethyl acetate (200 ml×2). The combined organic extracts were washed with sat. aq. sodium chloride (200 ml), dried (sodium sulfate) and the solvent removed in vacuo. Purification by column chromatography on silica gel eluting with ethyl acetate:pentane (0:100 changing to 10:90) gave the title compound as a pale yellow oil (9.44 g).

reactant | (4-hydroxyphenyl)acetonitrile | 45.1 mmol, 6.01 g | OC1=CC=C(C=C1)CC#N | C8H7NO
reactant | imidazole | 58.6 mmol, 3.81 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 49.6 mmol, 7.49 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | (4-{[tert-Butyl(dimethyl)silyl]oxy}phenyl)acetonitrile | 9.44 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC#N | C14H21NOSi
